US07723368B2
Step f2) 2-Amino-4-(4-(difluoromethoxy)phenyl)-1-methyl-4-(3-(propylamino)phenyl)-1H-imidazol-5(4H)-one hydrochloride
A mixture 2-amino-5-(3-amino-phenyl)-5-(4-difluoromethoxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one (150 mg, 0.43 mmol), propionaldehyde (25 mg, 0.43 mmol), sodium triacetoxyborohydride (184 mg, 0.87 mmol), and acetic acid (0.87 mmol) in dichloroethane (4.3 mL) was stirred at room temperature overnight. The reaction was diluted with methylene chloride and washed with sodium carbonate. The organic layer was concentrated and purified by reverse-phase HPLC followed by treatment with hydrochloric acid to provide the title compound (122 mg, 73%), characterized by NMR and mass spectral analyses. MS (ES+) m/e 389 (M+H)+.

reactant | 2-amino-5-(3-amino-phenyl)-5-(4-difluoromethoxy-phenyl)-3-methyl-3,5-dihydro-imidazol-4-one | 0.43 mmol, 150 mg | NC1=NC(C(N1C)=O)(C1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)N | C17H16F2N4O2
reactant | propionaldehyde | 0.43 mmol, 25 mg | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.87 mmol, 184 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.87 mmol | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 4.3 mL | ClC(C)Cl | C2H4Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-4-(4-(difluoromethoxy)phenyl)-1-methyl-4-(3-(propylamino)phenyl)-1H-imidazol-5(4H)-one hydrochloride | 122 mg, 73% | Cl.NC=1N(C(C(N1)(C1=CC(=CC=C1)NCCC)C1=CC=C(C=C1)OC(F)F)=O)C | InChI=1S/C20H22F2N4O2.ClH/c1-3-11-24-15-6-4-5-14(12-15)20(17(27)26(2)19(23)25-20)13-7-9-16(10-8-13)28-18(21)22;/h4-10,12,18,24H,3,11H2,1-2H3,(H2,23,25);1H
